US08536165B2
B. 2-bromo-5-cyclopropyl-3-fluorobenzoic acid
To a solution of TMDA (1.3 ml, 8.61 mmol) in dry THF (9 mL) under inert atmosphere at −65° C., a 1.4M solution of sec-BuLi (8 ml, 11.20 mmol) was added dropwise. Then a solution of 3-cyclopropyl-5-fluorobenzoic acid (0.69 g, 3.83 mmol) in dry THF (3 mL) was added dropwise and stirred for 1 h. Then a solution of 1,2-dibromotetrachloroethane (5 g, 15.48 mmol) in dry THF (11 mL) was added dropwise for 1 h and stirred for additional 20 min. A white suspension was obtained. The cooling bath was removed and at −20° C. water (30 mL) and diethyl ether (30 mL) were added. The organic layer was separated and the aqueous phase was acidified (until pH: 1) using a 2N aqueous solution of HCl (13 mL needed) and extracted with diethyl ether. The organic phase was washed with water and brine, dried, filtered and concentrated in vacuo to afford a mixture 1:1 of the expected compound and starting material (38% yield), which was used without further purification

reactant | TMDA | 8.61 mmol, 1.3 ml | C1C(NC(CS1)C(=O)O)C(=O)O | C6H9NO4S
reactant | sec-BuLi | 11.20 mmol, 8 ml | [Li]C(C)CC
reactant | 3-cyclopropyl-5-fluorobenzoic acid | 3.83 mmol, 0.69 g | C1(CC1)C=1C=C(C(=O)O)C=C(C1)F | C10H9FO2
reactant | 1,2-dibromotetrachloroethane | 15.48 mmol, 5 g | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 2-bromo-5-cyclopropyl-3-fluorobenzoic acid | BrC1=C(C(=O)O)C=C(C=C1F)C1CC1 | C10H8BrFO2
